US09193723B2
methyl 4-(2-cyclopentylacetamido)benzoate
A solution of methyl 4-aminobenzoate (0.25 g, 1.654 mmol) in tetrahydrofuran (8.27 ml) was treated with diisopropylethylamine (0.433 ml, 2.481 mmol) and 2-cyclopentylacetyl chloride (0.279 g, 1.902 mmol) and the reaction mixture was stirred at ambient temperature for 2 hours. Concentration and normal phase chromatography provided the title compound.

reactant | methyl 4-aminobenzoate | 1.654 mmol, 0.25 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | diisopropylethylamine | 2.481 mmol, 0.433 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-cyclopentylacetyl chloride | 1.902 mmol, 0.279 g | C1(CCCC1)CC(=O)Cl | C7H11ClO
solvent | tetrahydrofuran | 8.27 ml | O1CCCC1 | C4H8O
product | methyl 4-(2-cyclopentylacetamido)benzoate | C1(CCCC1)CC(=O)NC1=CC=C(C(=O)OC)C=C1 | C15H19NO3
